US06660751B1
4-Fluorobenzenesulfonic Acid 2-((4-Fluorobenzenesulfonyl)-methyl-amino)-ethyl Ester (D2)
The title compound was prepared from 2-methylamino ethanol and 4-fluorophenyl sulfonyl chloride using the method described in Description 1.

reactant | 2-methylamino ethanol | CNCCO | C3H9NO
reactant | 4-fluorophenyl sulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-Fluorobenzenesulfonic Acid 2-((4-Fluorobenzenesulfonyl)-methyl-amino)-ethyl Ester | FC1=CC=C(C=C1)S(=O)(=O)N(CCOS(=O)(=O)C1=CC=C(C=C1)F)C | C15H15F2NO5S2
